US03998829
21-Butyryl-3α-hydroxy-5α-pregnane-11,20-dione
Ethyl butyrate (0.84 ml) was added to a mixture of 3α-hydroxy-5α-pregnane-11,20-dione (665 mg) and sodium hydride (150 mg.) in dry dimethyl sulphoxide (10 ml.). The mixture was stirred, under N2, for 13/4 hrs. The reaction mixture was treated with methyl alcohol to destroy excess sodium hydride, then poured into 2N-hydrochloric acid. The product was extracted with ethyl acetate and the combined extracts were washed with water, dried and evaporated. Preparative t.l.c. of the residue (859 mg.) gave two fractions. The more polar fraction was title compound (244 mg.) [α]D + 74.0°, λmax. 278 nm (ε 12,980).

reactant | Ethyl butyrate | 0.84 ml | C(CCC)(=O)OCC | C6H12O2
reactant | 3α-hydroxy-5α-pregnane-11,20-dione | 665 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H32O3
reactant | sodium hydride | 150 mg | [H-].[Na+]
reactant | methyl alcohol | CO | CH4O
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 21-Butyryl-3α-hydroxy-5α-pregnane-11,20-dione | 244 mg | C(CCC)(=O)CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C25H38O4
